data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)C[C:20](CC(=O)OCC)([OH2+:21])[O:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCOC(=O)C[C:20](=[O+:10]CCO)CC(=O)OCC.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21]=C1CCC(=O)C1C.[OH2:10]>>CC1C(=O)CCC1=[O:21].[H:20][OH2+:10] 10=20;20,21=21
C[N:10](C)CC1=CC=CC=C1.[CH3:20][I:21]>>C[N+:10](C)([CH3:20])CC1=CC=CC=C1.[I-:21] 10=20;20,21=21
[H:20][C:21]1([C:22](=[O:23])C(=CNC1=O)C2=CC=CC=C2)C(C(C)CCCC=CC=CC)O.CC[N:10](CC)CC.CCO>>[H:20][N+:10](CC)(CC)CC.CC=CC=CCCCC(C)C([C:21]1=[C:22](C(=CNC1=O)C2=CC=CC=C2)[O-:23])O.CCO 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC1=C(C=CC(=C1)OC)OC)C(CC(C)C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC(C)CC([O-])([O:21]CC1=C(C=CC(=C1)OC)OC)Cl 10=20;20,21=21
C[NH:10]C.[CH2:20]=[OH+:21]>>C[NH+:10](C)[CH2:20][OH:21] 10=20;20,21=21
C[S+:20](C)I.[OH2:10]>>C[S:20](C)([OH2+:10])I 10=20,
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)S(=O)(=O)O.O[S+:20](=O)=O>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[S:20](=O)(=O)O)S(=O)(=O)O 10,11=10,20
CCCCCC(CCCCC)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCCCC(CCCCC)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
[H:20][OH+:21]C1(CCC2C(CC2(C)C)C3CCC1C3)OC.[OH2:10]>>[H:20][OH2+:10].CC1(CC2C1CCC(C3CCC2C3)([OH:21])OC)C 10=20;20,21=21
[H:20][C:21](C)([C:22](=[O:23])CC)C(=O)OCC.CC[O-:10]>>[H:20][O:10]CC.CC[C:22](=[C:21](C)C(=O)OCC)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCC1=CC=C[C:10](=C1)[Mg:11]Br>>[H:20][C:10]1=CC(=CC=C1)CC.OS(=O)(=O)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.[C-:10]#N>>[H:20][C:10]#N.CC(=O)[O-:21] 10=20;20,21=21
C[Si-:10](C)(C)([O+:11]=C)Br>>C[Si:10](C)(C)Br.C=[O:11] 10,11=11
CC(C)(C)C1CC2C34C15C[CH:20]([OH+:21]C5OC3(CC=C4)C(=O)O2)[O:10]C.CC(=O)[O-].BrBr>>CC(C)(C)C1CC2C34C1(C(OC3(CC=C4)C(=O)O2)[OH:21])C[CH:20]=[O+:10]C.CC(=O)[O-].BrBr 10=20;20,21=21
C[NH2:10].[Cu:20](Br)Br>>C[NH2+:10][Cu-:20](Br)Br 10=20,
CCCCCCCC[P+:20](CCCCCCCC)(CCCCCCCC)Cl.CCC1C=CC=CC(C(O1)CC=CC#C)[O-:10].C(Cl)(Cl)Cl>>CCCCCCCC[P:20](CCCCCCCC)(CCCCCCCC)([O:10]C1C=CC=CC(OC1CC=CC#C)CC)Cl.C(Cl)(Cl)Cl 10=20,
[H:20][C:21](C(C1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(C(=O)C)C(=O)OCC)([C:22](=[NH2+:23])C)C(=O)OCC.[NH3:10].CCO.O>>[H:20][NH3+:10].CCOC(=O)C(C(C1=C(ON=C1C)CCC2=CC(=CC=C2)Br)[C:21](=[C:22](C)[NH2:23])C(=O)OCC)C(=O)C.CCO.O 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CC([NH2+]CCC1=CC(=C(C=C1)O)O)[O-:10]>>[H:20][O:10]C(C)[NH2+]CCC1=CC(=C(C=C1)O)O.[OH2:21] 10=20;20,21=21
[H:20][Cl:21].C[C:11]1=[CH:10]CCCC1(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCCC([C+:11]1C)(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(CC([O+:23]=[C:22]1C)(C2=CC=CC=C2)O)C(=O)OCC3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C(F)(F)F.C[C:22]1=[C:21](CC([O:23]1)(C2=CC=CC=C2)O)C(=O)OCC3=CC=CC=C3 10=20;22,23=23;20,21=21,22
CC(=O)OC(=O)CC[C:20]([O-:10])(OC)[Cl:21]>>CC(=O)OC(=O)CC[C:20](=[O:10])OC.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNCC=C([O-:10])OC>>[H:20][O:10]C(=CCNCC)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[Li-]([NH+](C(C)C)C(C)C)[O+](C1=CCC2(C3CCC4=COC=C4C3(CCC2C1(C)CO[Si](C)(C)C(C)(C)C)C)C)[Si-:10](C)(C)(C)[Cl:11]>>[Li-]([NH+](C(C)C)C(C)C)[O+](C1=CCC2(C3CCC4=COC=C4C3(CCC2C1(C)CO[Si](C)(C)C(C)(C)C)C)C)[Si:10](C)(C)C.[Cl-:11] 10,11=11
[H:20][OH2+:21].[H:10][AlH2-:11]OCCCO[AlH3-]>>C(CO[AlH3-])CO[AlH2:11].[H:10][H:20].[OH2:21] 10,11=10,20;20,21=21
CO[PH:10](OC)(Cl)[Cl:11]>>CO[PH+:10](OC)Cl.[Cl-:11] 10,11=11
CC[C:11](=[O:10])[NH:12]CCC1=CC=CC=C1.[O:21]=[P:20](Cl)(Cl)Cl>>CC[C:11](=[NH+:12]CCC1=CC=CC=C1)[O:10][P:20]([O-:21])(Cl)(Cl)Cl 10,11=10,20;12=11;20,21=21
C[Si](C)(C)C[CH:11]=[CH2:10].[CH2:20]=[O+:21][Fe-]>>C[Si](C)(C)C[CH+:11][CH2:10][CH2:20][O:21][Fe-] 10,11=10,20;20,21=21
C1=CC=C(C(=C1)C(=O)O)[N:10]=[N:20][OH2+:21]>>C1=CC=C(C(=C1)C(=O)O)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)C(CC)C(=O)C1=CC=CC=C1.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4)OCC.CCC(C(=O)C1=CC=CC=C1)C(=O)[O-:21] 10=20;20,21=21
CC(C)OC1=C2C=CC(=C(C2=C[C:10](=C1)[CH:11]([O-:12])[O:20][O:21][C:22](=[OH+:23])C3=CC(=CC=C3)Cl)OC)Br>>CC(C)OC1=C2C=CC(=C(C2=C[C:10](=C1)[O:20][CH:11]=[O:12])OC)Br.C1=CC(=CC(=C1)Cl)[C:22](=[O:21])[OH:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O+:21]=C(CC)CCC1(C(=O)CCC1=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCC(=[O:21])CCC1(C(=O)CCC1=O)C 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2[N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10]>>C1=CC2=C(C=CC=C2[N+](=O)[O-])[C:21](=[CH:22]1)[N+](=O)[O-].[H:20][O:10]S(=O)(=O)O 10=20;20,21=21,22
[H:20][C:21](=[N:22][O:23]C(=O)C)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C[C:21]#[N:22].CC(=O)[O-:23] 10=20;22,23=23;20,21=21,22
